* Extracted by KLayout with GF180MCU LVS runset on : 09/08/2026 00:07

* cell ota_5t
* pin Ibias_30uA_nmos
* pin VSS
* pin Vdd_3v3
* pin Vin_m_5tota
* pin Vin_p_5tota
* pin Vout_5tota
.SUBCKT ota_5t Ibias_30uA_nmos VSS Vdd_3v3 Vin_m_5tota Vin_p_5tota Vout_5tota
* device instance $1 m0 *1 19.36,-6.66 nfet_03v3
M$1 \$3 \$I3 \$I1 VSS nfet_03v3 L=0.28U W=6U AS=2.64P AD=1.56P PS=12.88U
+ PD=6.52U
* device instance $2 m0 *1 20.16,-6.66 nfet_03v3
M$2 Ibias_30uA_nmos Vin_p_5tota \$3 VSS nfet_03v3 L=0.28U W=6U AS=1.56P
+ AD=1.56P PS=6.52U PD=6.52U
* device instance $3 m0 *1 20.96,-6.66 nfet_03v3
M$3 Vout_5tota Vin_m_5tota Ibias_30uA_nmos VSS nfet_03v3 L=0.28U W=6U AS=1.56P
+ AD=1.56P PS=6.52U PD=6.52U
* device instance $4 m0 *1 21.76,-6.66 nfet_03v3
M$4 \$I2 \$I4 Vout_5tota VSS nfet_03v3 L=0.28U W=6U AS=1.56P AD=2.64P PS=6.52U
+ PD=12.88U
* device instance $5 m0 *1 19.36,6.78 pfet_03v3
M$5 \$3 \$I7 \$I5 Vdd_3v3 pfet_03v3 L=0.28U W=10U AS=4.4P AD=2.6P PS=20.88U
+ PD=10.52U
* device instance $6 m0 *1 20.16,6.78 pfet_03v3
M$6 Vdd_3v3 \$3 \$3 Vdd_3v3 pfet_03v3 L=0.28U W=10U AS=2.6P AD=2.6P PS=10.52U
+ PD=10.52U
* device instance $7 m0 *1 20.96,6.78 pfet_03v3
M$7 Vout_5tota \$3 Vdd_3v3 Vdd_3v3 pfet_03v3 L=0.28U W=10U AS=2.6P AD=2.6P
+ PS=10.52U PD=10.52U
* device instance $8 m0 *1 21.76,6.78 pfet_03v3
M$8 \$I6 \$I8 Vout_5tota Vdd_3v3 pfet_03v3 L=0.28U W=10U AS=2.6P AD=4.4P
+ PS=10.52U PD=20.88U
.ENDS ota_5t
